US06130338
To a solution of 15.9 g (0.1 mol) of 1-benzyl-3-pyrroline, 12.0 g (0.12 mol) of 98% sulfuric acid, and 60.0 g of THF in a quartz round flask reactor, 45.6 g (0.20 mol) of (NH4)2S2O8 (ammonium peroxydisulfate produced by Mitsubishi Gas Chemical Industry Co., Ltd.) was added with stirring and allowed to react for 5 days at room temperature with irradiation by 500 W Xe lamps (UXL-500D xenon lamp produced by Ushio). 300 mL (0.30 mol) of 1 mol/L phenyllithium (PhLi) in cyclohexane-diethyl ether solution (produced by Kanto Chemical Co., Inc.) was continuously added to the reaction mixture and stirred for 5 hours at about 5° C. using an ice-bath. After completion, water was added to destroy excess PhLi at about 5° C. using an ice-bath. Acetone and diethyl ether were evaporated under reduced pressure, and extracted with toluene and water. After the solvent was evaporated under reduced pressure, 19.3 g of 1-benzyl-4-phenyl-3-pyrrolidinol (yield 76.3%) was obtained.

reactant | 1-benzyl-3-pyrroline | 0.1 mol, 15.9 g | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
reactant | sulfuric acid | 0.12 mol, 12.0 g | S(O)(O)(=O)=O | H2O4S
reactant | THF | 60.0 g | C1CCOC1 | C4H8O
reactant | phenyllithium | 0.30 mol, 1 mol/L, 300 mL | C1(=CC=CC=C1)[Li]
solvent | cyclohexane diethyl ether | C1CCCCC1.C(C)OCC
solvent | water | O | H2O
product | 1-benzyl-4-phenyl-3-pyrrolidinol | 19.3 g, yield 76.3% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC=CC=C1)O | C17H19NO
